US09428470B2
D) 2,2′-(3-(3-(Benzyloxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid
A mixture of butyl methyl 2,2′-(3-(3-(benzyloxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate (1.02 g), THF (15 mL), methanol (15 mL), and a 1 M aqueous sodium hydroxide solution (15 mL) was stirred overnight at room temperature. The reaction mixture was neutralized with 1 M hydrochloric acid at 0 C, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (0.786 g).

reactant | butyl methyl 2,2′-(3-(3-(benzyloxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 1.02 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NOC(C1)(CC(=O)OC)CC(=O)OCCCC | C25H29NO6
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M, 15 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 2,2′-(3-(3-(Benzyloxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid | 0.786 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NOC(C1)(CC(=O)O)CC(=O)O | C20H19NO6
